US05196539
Example 2: Preparation of N-(2-Benzoyloxyethyl)-pyridinium Bromide
A solution of 50.0 grams (0.218 mol) of 2-bromoethyl benzoate, 17.27 grams (0.218 mol) of pyridine and 135 milliters of acetonitrile was heated at reflux for 17.75 hours and cooled. Solid crystallized and was collected, washed with acetonitrile, then with ether and dried. The yield of product was 48.5 grams (72.19% of theory); mp=162°-164° C.

reactant | 2-bromoethyl benzoate | 0.218 mol, 50.0 grams | C(C1=CC=CC=C1)(=O)OCCBr | C9H9BrO2
reactant | pyridine | 0.218 mol, 17.27 grams | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-Benzoyloxyethyl)-pyridinium Bromide | [Br-].C(C1=CC=CC=C1)(=O)OCC[N+]1=CC=CC=C1 | InChI=1S/C14H14NO2.BrH/c16-14(13-7-3-1-4-8-13)17-12-11-15-9-5-2-6-10-15;/h1-10H,11-12H2;1H/q+1;/p-1
